US08461360B2
γ-Mangostin from 3,6,7-trimethyl-γ-mangostin: To a solution of 3,6,7-trimethyl-γ-mangostin (0.5 g, 1.14 mmol) in DMSO (LR, 20 mL) was added sodium cyanide (1.0 g, 20.5 mmol) at RT and the mixture was stirred at 190-200° C. for 6 h. The reaction mixture was allowed to ambient temperature and poured into ice cold water and extracted with a mixture of ethyl acetate and THF (1:1, 5×100 mL). The combined organic layer was washed with aqueous potassium permanganate (10%), water, brine and dried over sodium sulfate. The solution was filtered and the solvent evaporated under vacuum and the residue was chromatographed over silica gel column using chloroform-methanol mixture (95:5) as eluents to give α-mangostin (300 mg, 64%). The α-mangostin was then converted to γ-mangostin using the inventive demethylation procedure as described in example 12.

reactant | γ-Mangostin | CC(=CCC=1C(=CC2=C(C1O)C(=O)C3=C(C=C(C(=C3CC=C(C)C)O)O)O2)O)C | C23H24O6
reactant | sodium cyanide | 20.5 mmol, 1.0 g | [C-]#N.[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | α-mangostin | 300 mg, 64% | CC(=CCC1=C(C=C2C(=C1O)C(=O)C3=C(C(=C(C=C3O2)O)OC)CC=C(C)C)O)C | C24H26O6
